US07572797B2
N-[6-Amino-5-(2,3-dichloro-5-methoxyphenyl)pyrazin-2-yl]-1-methyl-1H-pyrazole-5-carboxamide
N-(6-Amino-5-chloropyrazin-2-yl)-1-methyl-1H-pyrazole-5-carboxamide (Preparation 2, 0.1 g, 0.396 mmol) was combined with 2,(2,3-dichloro-5-methoxy-phenyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (Preparation 18), (0.156 g, 0.515 mmol), cesium carbonate (0.129 g, 0.396 mmol) and palladium tetrakistriphenylphosphine (0.046 g, 0.04 mmol) and suspended in a mixture of 1,4-dioxane (1 ml) and water (0.5 ml). The reaction was heated at 80° C. for 5 hours. The reaction was allowed to cool to room temperature and then concentrated in vacuo. The residue was partitioned between aqueous sodium carbonate solution (20 ml) and ethyl acetate (20 ml) and the organic layer dried (Na2SO4) and concentrated in vacuo. The residue was purified by silica gel column chromatography, eluting with ethyl acetate:heptane 2:3 to 1:1, to afford the product as an off-white solid (72 mg).

reactant | N-(6-Amino-5-chloropyrazin-2-yl)-1-methyl-1H-pyrazole-5-carboxamide | 0.396 mmol, 0.1 g | NC1=C(N=CC(=N1)NC(=O)C1=CC=NN1C)Cl | C9H9ClN6O
reactant | 2,3-dichloro-5-methoxy-phenyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.515 mmol, 0.156 g | ClC1=C(C=C(C=C1Cl)OC)B1OC(C(O1)(C)C)(C)C | C13H17BCl2O3
reactant | cesium carbonate | 0.396 mmol, 0.129 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.5 ml | O | H2O
product | N-[6-Amino-5-(2,3-dichloro-5-methoxyphenyl)pyrazin-2-yl]-1-methyl-1H-pyrazole-5-carboxamide | 72 mg | NC1=C(N=CC(=N1)NC(=O)C1=CC=NN1C)C1=C(C(=CC(=C1)OC)Cl)Cl | C16H14Cl2N6O2
